US07544835B2
3-(4-{2-[(2,4-Dichlorophenyl)carbamoyloxy]-ethyl}phenyl)-2-isopropoxypropanoic acid
Using ethyl 3-[4-(2-hydroxyethyl)phenyl]-2-isopropoxypropanoate and 2,4-dichlorophenylisocyanate, the title compound was obtained in the same manner as described in Example 148.

reactant | ethyl 3-[4-(2-hydroxyethyl)phenyl]-2-isopropoxypropanoate | OCCC1=CC=C(C=C1)CC(C(=O)OCC)OC(C)C | C16H24O4
reactant | 2,4-dichlorophenylisocyanate | ClC1=C(C=CC(=C1)Cl)N=C=O | C7H3Cl2NO
product | 3-(4-{2-[(2,4-Dichlorophenyl)carbamoyloxy]-ethyl}phenyl)-2-isopropoxypropanoic acid | ClC1=C(C=CC(=C1)Cl)NC(=O)OCCC1=CC=C(C=C1)CC(C(=O)O)OC(C)C | C21H23Cl2NO5
